US09024015B2
Potassium carbonate (515 gm) was added to a solution of 5-chloro-2-nitro benzoic acid (500 gm) in acetone (2750 ml) at room temperature. Dimethyl sulphate (306.5 gm) was added to the reaction mixture slowly and heated to reflux for 30 minutes. The reaction mass was filtered and then concentrated to obtain a residual mass. The residual mass was poured to the ice water and extracted with methylene chloride. The solvent was distilled off under reduced pressure to obtain a residual solid of methyl 5-chloro-2-nitrobenzoate (534 gm).

reactant | Potassium carbonate | 515 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-2-nitro benzoic acid | 500 gm | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Dimethyl sulphate | 306.5 gm | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 2750 ml | CC(=O)C | C3H6O
product | methyl 5-chloro-2-nitrobenzoate | 534 gm | ClC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H6ClNO4
